US05250735
To a suspension of 1.90 g (41 mmole) of NaNH2 in 60 ml of dry toluene, 5.50 g (35 mmole) of 2-cyclopentylidene cyclopentanone was added dropwise below about 30° C. under stirring. The resulting mixture was stirred at about room temperature until no NH3 was evolved and then 3.8 g (32 mmole) of 2-dimethylaminoethyl chloride was added dropwise. The mixture was heated for about 2 hours at about 100° C. under stirring. On cooling, the mixture was acidified with 2N HCl. The aqueous layer was separated and the organic layer was extracted with 2N HCl. The combined aqueous layer was basified with 10% NaOH and extracted with ether. The ether extracts were dried over anhydrous MgSO4. The ether solution was treated with ethanolic hydrogen chloride to give 2-(1-cyclopenten-1-yl)-2-dimethylamino-ethyl cyclopentanone hydrochloride.

reactant | 2-cyclopentylidene cyclopentanone | 35 mmole, 5.50 g | C1(CCCC1)=C1C(CCC1)=O | C10H14O
reactant | NH3 | N | H3N
reactant | 2-dimethylaminoethyl chloride | 32 mmole, 3.8 g | CN(CCCl)C | C4H10ClN
reactant | HCl | 2N | Cl | ClH
reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(1-cyclopenten-1-yl)-2-dimethylamino-ethyl cyclopentanone hydrochloride | Cl.C1(=CCCC1)C(CC1C(CCC1)=O)N(C)C | InChI=1S/C14H23NO.ClH/c1-15(2)13(11-6-3-4-7-11)10-12-8-5-9-14(12)16;/h6,12-13H,3-5,7-10H2,1-2H3;1H
